US06500835B2
Synthesis of 3-(3-amino-4-methoxybenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione (Compound 23)
400 mg (1.40 mmol) of 3-t-butoxycarbonylamino-4-methoxybenzenesulfonamide and 533 mg (1.40 mmol) of benzyl 4-chloro-2-N-phenoxycarbonylanthranilate were treated in the same way as in Preparation Example 17 to obtain 86 mg (yield 16%: 4 steps) of the above-identified compound. Properties: colorless crystal, Melting point: >200° C. (decomposition), PMR (δ ppm, DMSO-d6): 3.81 (3H, s), 7.26-7.37 (5H, m), 7.77 (1H, s), 7.90 (1H, d), 7.94 (1H, d), 11.73 (1H, s).

reactant | 3-t-butoxycarbonylamino-4-methoxybenzenesulfonamide | 1.40 mmol, 400 mg | C(C)(C)(C)OC(=O)NC=1C=C(C=CC1OC)S(=O)(=O)N | C12H18N2O5S
reactant | benzyl 4-chloro-2-N-phenoxycarbonylanthranilate | 1.40 mmol, 533 mg | ClC=1C=C(C(C(=O)OCC2=CC=CC=C2)=CC1)NC(=O)OC1=CC=CC=C1 | C21H16ClNO4
product | 3-(3-amino-4-methoxybenzenesulfonyl)-7-chloro-2,4(1H,3H)-quinazolinedione | yield 16% | NC=1C=C(C=CC1OC)S(=O)(=O)N1C(NC2=CC(=CC=C2C1=O)Cl)=O | C15H12ClN3O5S
